US05250517
0.17 g (0.56 mmol) of 2-(RS)-benzyl-4-(4-chlorophenyl)-4-oxo-butyric acid was dissolved in 10 ml of dimethylformamide and treated with 0.20 g (0.51 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide, 0.057 g (0.56 mmol) of triethylamine and 0.21 g (0.56 mmol) of HBTU and stirred at room temperature overnight. The mixture was subsequently evaporated in a high vacuum. The residue was dissolved in ethyl acetate and then washed with saturated sodium bicarbonate solution and saturated sodium chloride solution. After drying the organic phase over sodium sulfate, the solvent was evaporated under reduced pressure and the residue, for purification, was chromatographed on silica gel using a 95:5 mixture of methylene chloride and methanol which contained 0.5% ammonium hydroxide. There were obtained 270 mg (78%) of (S)-α-[(RS)-α-(4-chlorophenylacetyl)hydrocinnamamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide in the form of a yellowish foam. MS: 675 (M+).

reactant | 2-(RS)-benzyl-4-(4-chlorophenyl)-4-oxo-butyric acid | 0.56 mmol, 0.17 g | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)C1=CC=C(C=C1)Cl | C17H15ClO3
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.51 mmol, 0.20 g | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | triethylamine | 0.56 mmol, 0.057 g | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.56 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-α-[(RS)-α-(4-chlorophenylacetyl)hydrocinnamamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 270 mg, 78% | ClC1=CC=C(C=C1)CC(=O)C(C(=O)N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C39H51ClN4O4
